US03971814
2-(N,N'-Diphenyl-Amidino)-3-Hydroxy-Benzo[b]Thiophene
A solution of 2.3 g (0.1 mol) of sodium in 150 ml of methanol is mixed with 16.8 g (0.1 mol) of methyl thiosalicylate and then a solution of 24.4 g (0.1 mol) of N,N'-diphenyl-2-chloroacetamidine in 250 ml of methanol is added. After heating under reflux for 1 hour, the mixture is poured into ice water and the precipitate filtered and recrystallized from an ethanol/water solution to yield 26.5 g of yellow needles having an m.p. of 152°-153°C.

reactant | sodium | 0.1 mol, 2.3 g | [Na] | Na
reactant | methyl thiosalicylate | 0.1 mol, 16.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | N,N'-diphenyl-2-chloroacetamidine | 0.1 mol, 24.4 g | C1(=CC=CC=C1)NC(CCl)=NC1=CC=CC=C1 | C14H13ClN2
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 2-(N,N'-Diphenyl-Amidino)-3-Hydroxy-Benzo[b]Thiophene | 26.5 g | C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)O | C21H16N2OS
